US07888364B2
A mixture of 1 g of methyl 4-iodobenzoate, 920 mg of 4-Boc-piperazinone, 1.1 g of potassium carbonate, 32 mg of N,N′-dimethylethylenediamine and 70 mg of copper iodide in 10 mL of toluene was heated to 150° C. in a sealed microwave reactor for 3 h. The reaction mixture was diluted with ethyl acetate, washed with H2O, dried (MgSO4) and evaporated. Purified by silica gel chromatography (20-80% ethyl acetate/hexane) to afford tert-butyl 4-(4-(methoxycarbonyl)phenyl)-3-oxopiperazine-1-carboxylate. 500 mg of tert-butyl 4-(4-(methoxycarbonyl)phenyl)-3-oxopiperazine-1-carboxylate was hydrolyzed via Procedure M to give 4-(4-(tert-buthoxycarbonyl)-2-oxopiperazin-1-yl)benzoic acid. 100 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(4-(tert-buthoxycarbonyl)-2-oxopiperazin-1-yl)benzoic acid via Procedure G. The reaction mixture was diluted with ethyl acetate, washed with 0.1 N sodium hydroxide and brine, dried (MgSO4) and evaporated to afford tert-butyl 4-(4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)phenyl)-3-oxopiperazine-1-carboxylate. 300 mg of crude tert-butyl 4-(4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)phenyl)-3-oxopiperazine-1-carboxylate was treated with TFA (2 mL) containing trace amounts of H2O for 1 h. The reaction mixture was evaporated and the crude product was purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-oxopiperazin-1-yl)benzamide. MS (Q1) 407.3 (M)+.

reactant | tert-butyl 4-(4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)phenyl)-3-oxopiperazine-1-carboxylate | 300 mg | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C=C1)N1C(CN(CC1)C(=O)OC(C)(C)C)=O)C1=NC=CC=C1 | C27H27ClN4O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | O | H2O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-oxopiperazin-1-yl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)N1C(CNCC1)=O)=O)C1=NC=CC=C1 | C22H19ClN4O2
